US08445408B2
A mixture of 2.9 g (20 mmol) of 2-amino-4-chloro-6-methylpyrimidine, 2.9 g (22 mmol) of 1-aminoindane and 4.1 g (30 mmol) of potassium carbonate in 30 ml of dimethylformamide is heated at 145° C. for 3 hours. After cooling, the reaction mixture is hydrolyzed, the aqueous mixture is extracted with methylene chloride, the separated-off organic phase is dried with sodium sulfate. After filtering off the drying agent and concentrating the organic phase by evaporation, the crude mixture is separated by means of column chromatographic separation using ethyl acetate/methanol/triethylamine 90/10/1 as eluent. The 2-amino-4-indanyl-1-amino-6-methylpyrimidine obtained in this way is taken up in ethyl acetate/heptane 2:8 and treated with activated carbon. After separating off the activated carbon and concentrating the solvent by evaporation, 1 g of 2-amino-4-indanyl-1-amino-6-methylpyrimidine is obtained (glass-like solid, m.p: 53-54° C., 20% yield, 95% purity).

reactant | 2-amino-4-chloro-6-methylpyrimidine | 20 mmol, 2.9 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | 1-aminoindane | 22 mmol, 2.9 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 30 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-amino-4-indanyl-1-amino-6-methylpyrimidine | NC1N(C(=CC(=N1)C1CCC2=CC=CC=C12)C)N | C14H18N4
